US08802688B2
A suspension of 3-cyano-1H-indole-6-carboxylic acid ethyl ester (100 mg, 1.4 mmol) in methanol (1.12 mL) was added to a solution of urea hydrogen peroxide (453 mg, 4.67 mmol) in 2.5 M sodium hydroxide (1.12 mL, 2.80 mmol) at 0° C. The suspension was allowed to warm to room temperature and was stirred overnight. The reaction was concentrated under reduced pressure. Water was added and the solution was acidified with 3 N aqueous hydrochloric acid to pH=2. A precipitate formed. The reaction mixture was stirred for 1 minute at room temperature and was then filtered to give an orange solid. Additional urea hydrogen peroxide (453 mg) in 2.5 M sodium hydroxide and methanol was added and the mixture was stirred for 2 hours. The reaction was concentrated, diluted with water, acidified to pH=3 and filtered. The solid was washed with water and heptanes and was dried in a vacuum oven to give 3-carbamoyl-1H-indole-6-carboxylic acid as a solid (66.5 mg, 70%). −ESI (M−1) 203.1; 1H NMR (400 MHz, DMSO-d6, δ): 12.45 (br. s., 1 H), 11.78 (br. s., 1 H), 8.83 (d, J=1.6 Hz, 1 H), 8.09 (d, J=2.9 Hz, 1 H), 7.73 (dd, J=8.6, 1.8 Hz, 1 H), 7.51 (br. s., 1 H), 7.45 (d, J=8.4 Hz, 1 H), 6.89 (br. s., 1 H).

reactant | 3-cyano-1H-indole-6-carboxylic acid ethyl ester | 1.4 mmol, 100 mg | C(C)OC(=O)C1=CC=C2C(=CNC2=C1)C#N | C12H10N2O2
reactant | urea hydrogen peroxide | 4.67 mmol, 453 mg | OO.NC(=O)N
reactant | urea hydrogen peroxide | 453 mg | OO.NC(=O)N
solvent | methanol | 1.12 mL | CO | CH4O
solvent | sodium hydroxide | 2.5 M | [OH-].[Na+]
solvent | sodium hydroxide | 2.80 mmol, 2.5 M, 1.12 mL | [OH-].[Na+]
product | 3-carbamoyl-1H-indole-6-carboxylic acid | 66.5 mg, 70% | C(N)(=O)C1=CNC2=CC(=CC=C12)C(=O)O | C10H8N2O3
